US07667039B2
4-[1,2,4]Triazol-1-yl-3-trifluoromethyl-phenylamine
The title compound is obtained in a similar manner as Example 71a using 1-fluoro-4-nitro-2-trifluoromethyl-benzene (Aldrich, Buchs, Switzerland) and 1,2,4-triazole (Fluka, Buchs, Switzerland). Title compound: ES-MS: 229 (M+H)+; analytical HPLC: tret=4.14 minutes (Grad 2).

reactant | 1-fluoro-4-nitro-2-trifluoromethyl-benzene | FC1=C(C=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3F4NO2
reactant | 1,2,4-triazole | N1N=CN=C1 | C2H3N3
product | 4-[1,2,4]Triazol-1-yl-3-trifluoromethyl-phenylamine | N1(N=CN=C1)C1=C(C=C(C=C1)N)C(F)(F)F | C9H7F3N4
